US07429598B2
8′-chloro-5′-([methylthio]methoxy)-1′H-spiro[cyclohexane-1,4′-quinazolin]-2′(3′H)-one
To a solution of 8′-chloro-5′-hydroxy-1′H-spiro[cyclohexane-1,4′-quinazolin]-2′(3′H)-one, which can be prepared according to processes disclosed in example 63 of PCT/EP02/03594 (6 g, 2.25 mmol) in dimethylformamide (6 mL) was added potassium carbonate (0.776 g, 5.6 mmol) and chloromethyl methyl sulfide (0.26 mL, 2.7 mmol). The mixture was stirred in a sealed tube at 100° C. for 3 days. Dimethylformamide was removed by evaporation in vacuo. Water was added to the residue and the aqueous layer was extracted twice with ethyl acetate.

reactant | 8′-chloro-5′-hydroxy-1′H-spiro[cyclohexane-1,4′-quinazolin]-2′(3′H)-one | ClC=1C=CC(=C2C3(NC(NC12)=O)CCCCC3)O | C13H15ClN2O2
reactant | potassium carbonate | 5.6 mmol, 0.776 g | C([O-])([O-])=O.[K+].[K+]
reactant | chloromethyl methyl sulfide | 2.7 mmol, 0.26 mL | CSCCl | C2H5ClS
solvent | dimethylformamide | 6 mL | CN(C=O)C | C3H7NO
product | 8′-chloro-5′-([methylthio]methoxy)-1′H-spiro[cyclohexane-1,4′-quinazolin]-2′(3′H)-one | ClC=1C=CC(=C2C3(NC(NC12)=O)CCCCC3)OCSC | C15H19ClN2O2S
